US03992389
1-Phenacyl-4-benzamidopiperidine
Phenacyl bromide (2 g.), 4-benzamidopiperidine (2 g.) and potassium carbonate (2 g.) in isopropanol (25 ml.) were heated under reflux for 2 hours. The resulting solid was filtered, suspended in water and re-filtered to give the product (1.57 g.), m.p. 168° C. (Found: C, 74.4; H, 6.8; N, 8.8. C20H22N2O2 requires C, 74.5; H, 6.9; N, 8.7%).

reactant | Phenacyl bromide | 2 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 4-benzamidopiperidine | 2 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 1-Phenacyl-4-benzamidopiperidine | C(C(=O)C1=CC=CC=C1)N1CCC(CC1)NC(C1=CC=CC=C1)=O | C20H22N2O2
